US06462198B1
9H-Xanthene-9-carboxylic acid [5-(2-methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-amide.
The title compound, white solid, m.p. 204° C. and MS: m/e=351.1 (M+H+) was prepared in accordance with the general method of example 44a from (3,5-dimethylpyrazol-1-yl)-(9H-xanthen-9-yl)-methanone and [5-(2-methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-amine.

reactant | (3,5-dimethylpyrazol-1-yl)-(9H-xanthen-9-yl)-methanone | CC1=NN(C(=C1)C)C(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H16N2O2
reactant | [5-(2-methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-amine | COCCC1=NN=C(O1)N | C5H9N3O2
product | 9H-Xanthene-9-carboxylic acid [5-(2-methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-amide | COCCC1=NN=C(O1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H17N3O4
